US05017211
13.5 g of of N,N-diethyl-5-amino-2-chloro-4-fluorobenzamide in 150 ml of ethyl acetate are added dropwise while stirring within 30 minutes to a solution, heated to 70° C., of 6.7 ml of diphosgene in 50 ml of ethyl acetate. The reaction mixture is then heated at reflux temperature for 2 hours. Subsequently, the solvent is distilled off at normal pressure and the residue is distilled in a bulb-tube. There is obtained N,N-diethyl-2-chloro-4-fluoro-5-isocyanatobenzamide, b.p. 170° C./0.06 mmHg; nD 1.542, used as the starting material in Example 3.

reactant | N,N-diethyl-5-amino-2-chloro-4-fluorobenzamide | C(C)N(C(C1=C(C=C(C(=C1)N)F)Cl)=O)CC | C11H14ClFN2O
reactant | diphosgene | 6.7 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N,N-diethyl-2-chloro-4-fluoro-5-isocyanatobenzamide | C(C)N(C(C1=C(C=C(C(=C1)N=C=O)F)Cl)=O)CC | C12H12ClFN2O2
